US09387185B2
Nω-hydroxy-L-arginine is the physiologically occurring intermediate of the NO synthase catalysed oxidation L-arginine. NOHA is oxidised in a further step of NO synthase, nitrogen monoxide being released and L-citrulline being formed.

reactant | Nω-hydroxy-L-arginine | ONC(NCCC[C@H](N)C(=O)O)=N | C6H14N4O3
reactant | L-arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | NOHA | CC(=O)O.C(C[C@@H](C(=O)O)N)CN=C(N)NO
reactant | nitrogen monoxide | [N]=O | NO
product | L-citrulline | N[C@@H](CCCNC(=O)N)C(=O)O | C6H13N3O3
